US06251911B1
With the exclusion of moisture, 261 mg (1.00 mmol) of 3-amino-4-(3-chlorophenylamino)-1H-pyrazolo[3,4-d]pyrimidine are dissolved in 2.5 ml of dioxane and 1 ml of DMEU; 160 μl (1.1 mmol) of n-hexyl isocyanate are added and the reaction mixture is stirred overnight at RT. The dioxane is then evaporated off in a rotary evaporator and 30 ml of DIPE and 40 ml of hexane are added to the residue. Filtration with suction and washing with DIPE/hexane yield 4-(3chloro-phenylamino)-3-[(n-hexyl-amino)-carbonyl-amino]-1H-pyrazolo[3,4-d]pyrimidine; HPLC:tRet(grad20-100)=10.3; FAB-MS: (M+H)+=388.

reactant | 3-amino-4-(3-chlorophenylamino)-1H-pyrazolo[3,4-d]pyrimidine | 1.00 mmol, 261 mg | NC1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C11H9ClN6
reactant | n-hexyl isocyanate | 1.1 mmol, 160 μl | C(CCCCC)N=C=O | C7H13NO
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | DMEU | 1 ml | CN1CCN(C1=O)C | C5H10N2O
product | 4-(3chloro-phenylamino)-3-[(n-hexyl-amino)-carbonyl-amino]-1H-pyrazolo[3,4-d]pyrimidine | ClC=1C=C(C=CC1)NC1=C2C(=NC=N1)NN=C2NC(=O)NCCCCCC | C18H22ClN7O
